US05061804
A solution of methanesulfonyl chloride (10 ml) in tetrahydrofuran (20 ml) was dropwise added to a solution of (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4-hydroxypyrrolidine (19.95 g) and triethylamine (27 ml) in tetrahydrofuran (200 ml) at -10°~5° C. and the mixture was stirred at the same temperature for 1 hour The mixture was poured into water (200 ml), adjusted to pH 2.5 with 6N hydrochloric acid and extracted with ethyl acetate (150 ml×2). The organic layer was washed with brine (200 ml×2), dried over magnesium sulfate and concentrated under reduced pressure to give (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4methanesulfonyloxypyrrolidine (24.85 g).

reactant | methanesulfonyl chloride | 10 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4-hydroxypyrrolidine | 19.95 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)COCC(=O)O | C15H19NO6
reactant | triethylamine | 27 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4methanesulfonyloxypyrrolidine | 24.85 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(=O)O | C16H21NO8S
